US07973012B2
(1) Preparation of 2,3,4,6-tetra-O-benzyl-1-C-[2-(benzyloxy)-5-[hydroxy[4-[2-(tritylamino)ethyl]phenyl]methyl]-4-methylphenyl]-D-glucopyranose
To a tetrahydrofuran solution (3 mL) of 2-(4-bromophenyl)-N-tritylethaneamine (0.814 g, 1.84 mmol) was added dropwise under nitrogen atmosphere at −78° C. a 2.66 M hexane solution of n-butyllithium (0.69 mL, 1.84 mmol), and the mixture was stirred for 30 minutes at the same temperature. Then a tetrahydrofuran solution (3 mL) of 2,3,4,6-tetra-O-benzyl-1-C-[2-(benzyloxy)-5-formyl-4-methylphenyl]-D-glucopyranose (0.670 g, 0.876 mmol) was added dropwise, and the mixture was stirred for 30 minutes at the same temperature. To the reaction solution was added water, and the resulting mixture was extracted with ethyl acetate. The organic layer was dried with anhydrous magnesium sulfate. The drying agent was filtered off, and the solvent was evaporated under reduced pressure. Thus obtained residue was purified with NH type silica gel column chromatography (chloroform) to obtain the title compound (0.634 g, 64%) as a yellow oily compound.

reactant | 2-(4-bromophenyl)-N-tritylethaneamine | 1.84 mmol, 0.814 g | BrC1=CC=C(C=C1)CCNC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C27H24BrN
reactant | n-butyllithium | 1.84 mmol, 0.69 mL | C(CCC)[Li]
reactant | 2,3,4,6-tetra-O-benzyl-1-C-[2-(benzyloxy)-5-formyl-4-methylphenyl]-D-glucopyranose | 0.876 mmol, 0.670 g | C(C1=CC=CC=C1)O[C@H]1C(O)(O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)C1=C(C=C(C(=C1)C=O)C)OCC1=CC=CC=C1 | C49H48O8
solvent | water | O | H2O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | hexane | 2.66 M | CCCCCC | C6H14
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | 2,3,4,6-tetra-O-benzyl-1-C-[2-(benzyloxy)-5-[hydroxy[4-[2-(tritylamino)ethyl]phenyl]methyl]-4-methylphenyl]-D-glucopyranose | 0.634 g, 64% | C(C1=CC=CC=C1)O[C@H]1C(O)(O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)C1=C(C=C(C(=C1)C(C1=CC=C(C=C1)CCNC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)O)C)OCC1=CC=CC=C1 | C76H73NO8
